datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](#[C:8][C:9]([C:10]([H:13])([H:14])[H:15])[C:11]([H:16])([H:17])[H:18])[H:12]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:9]([C:8]#[C:7][H:12])([C:10]([H:13])([H:14])[H:15])[C:11]([H:16])([H:17])[H:18],50.208
[C:0]([O:1][H:4])([H:2])[H:3].[O:5][N:6]=[O:7]>>[C:0](=[O:1])([H:2])[H:3].[H:4][O:5][N:6]=[O:7],0.0
[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:13])([H:10])([H:11])[H:12].[C:22]([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])([H:13])[C:22]([H:23])([H:24])[H:25])([H:10])([H:11])[H:12],23.4304
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8]([C:9]([C:10](=[S:11])[H:16])[H:15])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:9]([C:8]([H:12])([H:13])[H:14])([C:10](=[S:11])[H:16])[H:15],47.2792
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[C:15]([O:16][O:17])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])[H:11])([H:5])[H:6].[H:10][O:17][O:16][C:15]([H:18])([H:19])[H:20],44.05752
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])([H:14])[H:15])([H:12])[H:13])[H:8]>>[C:0](#[C:1][C:2]1([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C:6]([H:16])[C:7]1([H:17])[H:18])[H:8],87.1109
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5](=[C:6]([C:7]([H:17])([H:18])[H:19])[C:8](=[C:9]([H:21])[H:22])[H:20])[H:16])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([C:6]([C:7]([H:17])([H:18])[H:19])[C:8](=[C:9]([H:21])[H:22])[H:20])[H:16])[H:10],82.634
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9].[H:25]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])[H:9].[H:10][H:25],0.0
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])[C:10](=[S:11])[H:18])([H:12])([H:13])[H:14]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:8]([C:7]([H:12])([H:13])[H:14])([C:9]([H:15])([H:16])[H:17])[C:10](=[S:11])[H:18],71.5464
[C:0]([C:1](=[C:2]([H:8])[H:9])[C:3]([O:4][O:5][H:12])([H:10])[H:11])([H:6])[H:7]>>[C:0](=[C:1]=[C:2]([H:8])[H:9])([H:6])[H:7].[C:3]([O:4][O:5][H:12])([H:10])[H:11],215.01576
[C:4]([S:5][H:8])([H:6])[H:7].[S:0]([S:1][H:3])[H:2]>>[H:2][C:4]([S:5][H:8])([H:6])[H:7].[S:0][S:1][H:3],-11.2968
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[O:11][O:12][H:13]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:13])[H:6])([H:4])[H:5].[O:11][O:12],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[H:14])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:5][O:6][H:12],122.850608
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[C:7]([C:8](=[C:9]([C:10](=[C:11]([H:17])[H:18])[H:16])[H:15])[H:14])([H:12])[H:13]>>[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[C:7]([C:8](=[C:9]([C:10](=[C:11]([H:17])[H:18])[H:16])[H:15])[H:14])([H:12])[H:13],2.146392
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[H:19]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:19])([H:9])[H:10],18.7443
[C:4](=[S:5])[H:6].[S:0]([S:1][H:3])[H:2]>>[H:2][C:4](=[S:5])[H:6].[S:0][S:1][H:3],-5.4392
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])([H:14])[H:15]>>[C:0]([C:1](=[S:2])[H:6])([H:4])[H:5].[H:3][C:7]([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])([H:14])[H:15],57.3208
[C:0](#[C:1][C:2]([C:3]#[C:4][H:14])=[C:5]([C:6]([H:15])([H:16])[H:17])[c:7]1[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]([H:21])[c:12]1[H:22])[H:13].[H:23]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:14])([C:5]([C:6]([H:15])([H:16])[H:17])[c:7]1[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]([H:21])[c:12]1[H:22])[H:23])[H:13],20.669
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([C:12](=[C:13]([H:23])[H:24])[H:22])=[C:14]([C:15](=[C:16]([H:26])[H:27])[H:25])[C:17](=[C:18]([H:29])[H:30])[H:28])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10](=[C:9]([H:19])[H:20])[H:21])([C:12](=[C:13]([H:23])[H:24])[H:22])[C:14]([C:15](=[C:16]([H:26])[H:27])[H:25])[C:17](=[C:18]([H:29])[H:30])[H:28])[H:4],29.3298
